US06436962B1
Step C: Preparation of (+/−)-1-(3-amino-2-methylpropyl)-4-cyano-4-phenyl-piperidine
A solution of (+/−)-1-(2-cyanopropyl)-4-cyano-4-phenyl-piperidine (1.75 g, 6.91 mmol) in tetrahydrofuran (12 mL) was cooled to −78° C. and 1 M lithium aluminum hydride in tetrahydrofuran (3.9 ml) was added via syringe. The solution was warmed to −20° C. and after 4.5 hours, the reaction was worked up by sequential addition of water (0.20 mL), 2 M sodium hydroxide(0.40 mL), and water (0.20 mL). The reaction was then warmed to room temperature and diluted with ethyl acetate. The organic layer was washed with aq. sodium hydroxide and brine and dried over sodium sulfate. The filtered organic extract was concentrated to give an oil which was used without further purification.

reactant | (+/−)-1-(2-cyanopropyl)-4-cyano-4-phenyl-piperidine | 6.91 mmol, 1.75 g | C(#N)C(CN1CCC(CC1)(C1=CC=CC=C1)C#N)C | C16H19N3
reactant | lithium aluminum hydride | 1 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.20 mL | O | H2O
reactant | sodium hydroxide | 2 M, 0.40 mL | [OH-].[Na+]
reactant | water | 0.20 mL | O | H2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.9 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+/−)-1-(3-amino-2-methylpropyl)-4-cyano-4-phenyl-piperidine | NCC(CN1CCC(CC1)(C1=CC=CC=C1)C#N)C | C16H23N3
